US07105544B2
N-[5-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-FLUOROPHENYL]-2-METHYLPROPANAMIDE
Example 56 was prepared from diphenylacetyl chloride and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CD3OD,) δ 7.80–7.64 (m, 1H), 7.37–7.09 (m, 12H), 7.08–6.98 (m, 1H), 6.98–6.88 (br, 1H), 4.90 (s, 1H), 3.47–3.33 (m, 2H), 3.33–3.18 (m, 2H), 3.01–2.81 (m, 4H), 2.81–2.69 (m, 1H), 2.69–2.54 (m, 1H), 2.10–1.66 (m, 6H), 1.10 (d, 6H, J=6.4 Hz); ESMS m/e: 516.4 (M+H)+. Anal. Calc. For (HCl salt) C32H39ClFN3O2.0.16CHCl3: C, 67.68; H, 6.92; N, 7.36. Found: C, 67.43; H, 6.85; N, 7.17.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(C(C)C)=O)F | C18H28FN3O
product | N-[5-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-2-FLUOROPHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(C(C)C)=O)F)C1=CC=CC=C1 | C32H38FN3O2
